US07812038B2
To a solution of sodium 1-butoxide (65 g, 0.642 mol) in THF (1 L), at room temperature under a dry nitrogen atmosphere, ethanol (250 mL, 5.35 mol) was added over a 10 minute period. To the resulting solution, 2-chloro-6-fluorobenzonitrile (100 g, 0.642 mol) was added in portions. The reaction mixture was stirred at room temperature for 30 minutes and then reduced to a volume of approximately 250 mL under reduced pressure. The resulting mixture was poured into chloroform and water and the layers separated. The organic layer was washed with water (twice) and brine, dried over MgSO4 and filtered. The filtrate was concentrated under reduced pressure to afford a light yellow solid. This material was recrystallized from hexanes to provide the 2-chloro-6-ethoxybenzonitrile, 135, (101 g, 87% yield) as a white crystalline solid.

reactant | sodium 1-butoxide | 0.642 mol, 65 g | CCCC[O-].[Na+]
reactant | ethanol | 5.35 mol, 250 mL | C(C)O | C2H6O
reactant | 2-chloro-6-fluorobenzonitrile | 0.642 mol, 100 g | ClC1=C(C#N)C(=CC=C1)F | C7H3ClFN
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | THF | 1 L | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-chloro-6-ethoxybenzonitrile | 87% yield | ClC1=C(C#N)C(=CC=C1)OCC | C9H8ClNO
